US04020075
2-Bromo-1-hydroxyquinolizinium bromide p-phenoxyanilinium salt
To a solution of 1-acetoxy-2-bromoquinolizinium bromide (12.0 g., 0.035 mole) in isopropanol (250 ml.) was added p-phenoxyaniline (15.0 g., 0.08 mole). The stirred mixture was boiled under reflux for 3.5 hours. The reaction mixture was treated with ether and scratched, and the precipitate was removed by filtration and dried at 63°. The mustard-yellow product weighed 11.0 g. (65%). Recrystallization from isopropanol/ether provided gold crystals melting at 123°-125°.

reactant | 1-acetoxy-2-bromoquinolizinium bromide | 0.035 mole, 12.0 g | [Br-].C(C)(=O)OC1=C(C=C[N+]2=CC=CC=C12)Br
reactant | p-phenoxyaniline | 0.08 mole, 15.0 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | ether | CCOCC | C4H10O
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | 2-Bromo-1-hydroxyquinolizinium bromide p-phenoxyanilinium salt | O(C1=CC=CC=C1)C1=CC=C([NH3+])C=C1.[Br-].BrC1=C(C2=CC=CC=[N+]2C=C1)O.[Br-] | InChI=1S/C12H11NO.C9H6BrNO.2BrH/c13-10-6-8-12(9-7-10)14-11-4-2-1-3-5-11;10-7-4-6-11-5-2-1-3-8(11)9(7)12;;/h1-9H,13H2;1-6H;2*1H
